US08133882B2
To a 40 ml DMSO solution of 2.0 g of 1-cyclopentyl-6,7-difluoro-3-nitroquinolin-4(1H)-one was added 2.3 ml of cyclohexylamine, followed by overnight stirring at 90° C. The reaction mixture was cooled to room temperature and poured into ice-cooled water, and then the insoluble materials were collected by filtration. By recrystallizing the resulting solid from ethanol, 2.5 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-nitroquinolin-4(1H)-one was obtained.

reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
reactant | 1-cyclopentyl-6,7-difluoro-3-nitroquinolin-4(1H)-one | 2.0 g | C1(CCCC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)[N+](=O)[O-] | C14H12F2N2O3
reactant | cyclohexylamine | 2.3 ml | C1(CCCCC1)N | C6H13N
solvent | water | O | H2O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-nitroquinolin-4(1H)-one | 2.5 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)[N+](=O)[O-])=O)F | C20H24FN3O3
